US03931269
α-Acetylthio-6-methoxy-2-naphthylacetic acid
To a solution of 600 ml. of anhydrous ethanol and 21 g. (0.317 moles) of potassium hydroxide is added 45 ml. of thioacetic acid dropwise. To this mixture is then added 0.244 moles of α-chloro-6-methoxy-2-naphthylacetic acid and stirring is continued for 15 hours. The solid which forms is filtered off and washed with ethanol. The filtrate is evaporated to dryness and the residue is dissolved in 500 ml. of ether and washed several times with water. Drying the ether and evaporation to dryness results in α-acetylthio-6-methoxy-2-naphthylacetic acid.

reactant | potassium hydroxide | 0.317 moles | [OH-].[K+]
reactant | thioacetic acid | C(C)(=S)O | C2H4OS
reactant | α-chloro-6-methoxy-2-naphthylacetic acid | 0.244 moles | ClC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C13H11ClO3
solvent | ethanol | C(C)O | C2H6O
product | α-Acetylthio-6-methoxy-2-naphthylacetic acid | C(C)(=O)SC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C15H14O4S
